US09062070B2
Step F: 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid
Sodium hydroxide (13.0 mL, 13.0 mmol) was added to a solution of methyl 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylate (1.10 g, 5.69 mmol) in methanol (21 mL). The resulting mixture was stirred at RT for 1.5 hours. Hydrochloric acid (13 mL, 13.00 mmol) was added. The solvent was evaporated. The residue was purified by chromatography on silica (24 g cartridge) eluting with CH2Cl2:MeOH 95:5 (150 mL) and CH2Cl2:MeOH:AcOH 90:10:1 to afford the title compound.

reactant | Sodium hydroxide | 13.0 mmol, 13.0 mL | [OH-].[Na+]
reactant | methyl 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylate | 5.69 mmol, 1.10 g | NC=1N=CC2=C(N1)CCC2C(=O)OC | C9H11N3O2
reactant | Hydrochloric acid | 13.00 mmol, 13 mL | Cl | ClH
solvent | methanol | 21 mL | CO | CH4O
product | 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid | NC=1N=CC2=C(N1)CCC2C(=O)O | C8H9N3O2
